US08026236B2
1-Methyl-6-(4-(2-(methylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (54 mg), 1-(dimethylamino)cyclopropane-carboxylic acid (37.2 mg), HATU (82 mg) and DIPEA (0.119 ml) were combined in NMP (2 ml) and stirred at room temperature for 16 hours. The reaction mixture was diluted with EtOAc (25 mL) and washed with 1:1 saturated sodium bicarbonate solution/water (3×15 mL). Organics were dried over sodium sulphate and solvent evaporated under reduced pressure. Purification by flash chromatography (10 g silica column, DCM to 5% MeOH in DCM gradient) followed by preparative HPLC (acidic) and SCX afforded N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-1-(dimethylamino)-N-methylcyclopropane-carboxamide (22% yield) as a white solid after trituration with ether and oven drying.

reactant | 1-Methyl-6-(4-(2-(methylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 54 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCNC)C(F)(F)F)C#N | C18H16F3N5O
reactant | 1-(dimethylamino)cyclopropane-carboxylic acid | 37.2 mg | CN(C1(CC1)C(=O)O)C | C6H11NO2
reactant | HATU | 82 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.119 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | ether | CCOCC | C4H10O
product | N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-1-(dimethylamino)-N-methylcyclopropane-carboxamide | 22% yield | C(#N)C1=NC(=CC2=C1N=CN2C)C2=CC(=C(OCCN(C(=O)C1(CC1)N(C)C)C)C=C2)C(F)(F)F | C24H25F3N6O2
